Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
s/p fall, ICH

 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ yo M extensive PMH including type 1 DM and ESRD, CAD
with mult PCIs and CABG on Plavix and ASA 81 who fell in the
bathroom at ___ after ___ procedure to restore flow to his HD
fistula. + LOC but awoke AO x3 and amnestic to events. CT showed
bilat SAH left > right, left frontal IPH and left SDH with 8mm
MLS.  He was transferred to ___ where his exam deteriorated 
and
he was intubated for airway protection.  Repeat CT head with
worsening intracranial hemorrhage and MLS.  Pt unable to
participate in history or exam. Family at bedside.

 
Past Medical History:
Blind for over ___ years, type 1 diabetes since the age of
___ years and CKD stage V, started dialysis coronary artery
disease, status post MI x 3 and congestive heart failure with
ejection fraction of 35%, s/p CABG ___, hypertension,
blindness, obstructive sleep apnea on CPAP, chronic back pain,
status post two back surgery in ___ and ___, history of
intermittent claudication, bronchomalacia, depression, anxiety,
panic attack, history of suicidal ideation, remote polysubstance
abuse. 
PSH: Tonsillectomy, right femoral artery bypass, history of PCI
stent, penile implant, left foot ___ toe amputation, back
surgery. CABG

 
Social History:
___
Family History:
 CAD

 
Physical Exam:
Upon admission: 
O: T:  BP:123/38   HR:52  R:14      O2Sats: 100%
Gen: intubated, sedation on hold
HEENT: occipital laceration, staples
Extrem: Warm and well-perfused. multiple vascular scars
Neuro:
No eye opening
No commands
Moves left side spontaneously and purposefully
Right upper and lower minimal withdrawal to noxious

Left pupil opacified
Right pupil 2mm NR
+ cough and gag

Upon discharge: Expired. 
 
Pertinent Results:
CT head OSH: Bilat SAH left greater than right with left frontal
IPH and small acute left SDH and 8mm MLS

CT head repeat ___ : worsening left frontal IPH and enlarging 
acute
SDH to 1cm with increased MLS to 1.5cm

CT Cspine ___.  No cervical spinal fracture or traumatic malalignment. 
2.  Several hypodense left thyroid nodules, the largest of which 
measuring 1.7 cm.  This warrants follow-up with nonemergent 
ultrasound. 

 
Brief Hospital Course:
___ yo M multiple comorbidities s/p fall with devastating 
intracranial hemorrhage.  No role for neurosurgical 
intervention.  After extensive discussion with family (daughter, 
son, brother and sister) the patient will be made CMO when 
family arrives at bedside based on his prior discussions with 
his family that he would not want to lead a dependent life. 
Family established code status as DNR. Social work was consulted 
in the ED. 

Patient was admitted to the ICU. Patient was terminally 
extubated once all family had arrived to bedside. Comfort 
measures were initiated. Patient was pronounced dead at 0400.   
 
Medications on Admission:
Metoprolol ER 25mg daily, Plavix 75mg daily, ASA 81mg daily,
clonazepam 0.5mg BID, trazadone 100mg QHS, gabapentin 300mg BID,
Nephrocaps 1mg daily, , modafinil 400mg daily, Humalog, lantus,
calcium, Lexapro 10mg daily, atorvastatin 80mg daily, 
pantorazole
40mg daily, fish oil, Tylenol PRN

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
___ 
SAH 

 
Discharge Condition:
expired 
 
Discharge Instructions:
expired 
 
Followup Instructions:
___